US08877780B2
A mixture of 2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile (1.20 g, 4.00 mmol) and PtO2 (0.4 g) in 5-6 N HCl in iPrOH was hydrogenated (55 psi, rt) for 24 h. The resulting mixture was diluted with water (30 mL) and filtered through celite. The celite was washed with water (30 mL) and the combined filtrates were concentrated in vacuo. The residue was triturated in acetonitrile (50 mL) and the product was isolated by filtration and dried in vacuo providing 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-3-methyl-piperidine-2,6-dione hydrochloride (1.2 g, 92% yield); 1H NMR (DMSO-d6) δ 1.70 (s, 3H), 1.87-1.93 (m, 1H), 2.55-2.82 (m, 3H), 4.14 (s, 2H), 4.66 (d, J=17.7 Hz, 1H), 4.75 (d, J=17.7 Hz, 1H), 7.61-7.74 (m, 3H), 8.60 (br, 3H), 10.88 (s, 1H).

reactant | 2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 4.00 mmol, 1.20 g | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1)C#N)=O | C15H13N3O3
reactant | HCl | 5-6 N | Cl | ClH
solvent | iPrOH | CC(C)O | C3H8O
solvent | water | 30 mL | O | H2O
catalyst | PtO2 | 0.4 g | O=[Pt]=O
product | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-3-methyl-piperidine-2,6-dione hydrochloride | 1.2 g, 92% yield | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C | InChI=1S/C15H17N3O3.ClH/c1-15(5-4-12(19)17-14(15)21)18-8-10-6-9(7-16)2-3-11(10)13(18)20;/h2-3,6H,4-5,7-8,16H2,1H3,(H,17,19,21);1H
